US04071680
5'-Deoxy-5'-iodo-5-Fluorouridine
5'-Deoxy-5'-iodo-2',3'-O-isopropylidene-5-fluorouridine (4 g) was treated with trifluoroacetic acid/water (9:1, 30 ml) for 15 minutes at room temperature. The solution was evaporated to dryness, co-evaporated with ethanol (2 × 100 ml) and the residue was recrystallized from ethyl acetate. Yield = 1.865 g (88%).

reactant | 5'-Deoxy-5'-iodo-2',3'-O-isopropylidene-5-fluorouridine | 4 g | CC1(O[C@H]2[C@H](O[C@H](C2O1)N3C=C(C(=O)NC3=O)F)CI)C | C12H14FIN2O5
solvent | trifluoroacetic acid water | 30 ml | FC(C(=O)O)(F)F.O
product | 5'-Deoxy-5'-iodo-5-Fluorouridine | IC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O)O | C9H10FIN2O5
